US06229011B1
Preparation of 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[(2-chloro-6-methylphenyl)carbonyl]-L-phenylalanine methyl ester
To a solution of 4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine methyl ester hydrochloride salt (272.5 mmol, 110 g) and 2-chloro-6-methyl benzoic acid (276 mmol, 47.15 g) in DMF (600 mL) were added HBTU (276 mmol, 105 g) and diisopropylethylamine (1.24 mol, 119 mL) at room temperature. The clear solution was stirred 48 h at room temperature at which time TLC analysis of the reaction mixture indicated the absence of the starting material. The reaction mixture was poured slowly into 5 L of water which contained some ice to lower the temperature. The white precipitated solid was allowed settle and the solid was collected by filtration. The solid cake was washed with water (1 L) and hexane (1 L) and air dried to obtain 150 g of a crude product. This solid product was dissolved in hot acetonitrile (1 L) and cooled in the refrigerator. The solid was collected by filtration and washed with hexane (500 mL) and air dried to obtain 101.1 g. The mother liquor was concentrated and the residue was purified by silica gel column chromatography eluting with dichloromethane and ethyl acetate (15:1) to obtain another 17.07 g (total=118.17 g, 83%). mp 244-245° C. 1H NMR, DMSO-d6 (400 MHz) δ10.66 (s, 1H), 8.83 (d, 1H, J=19 Hz), 7.47-7.6 (m, 5H), 7.15-7.29 (m, 5H), 4.58-4.68 (m, 1H), 3.65 (s, 3H), 3.12 (dd, 1H, J=17, 13 Hz), 2.87 (dd, 1H, J=17, 11 Hz), 2.09 (s, 3H). HR MS: Obs. mass. 518.0652. Calcd. mass, 518.0641.

reactant | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine methyl ester hydrochloride salt | 272.5 mmol, 110 g | Cl.COC([C@@H](N)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O
reactant | 2-chloro-6-methyl benzoic acid | 276 mmol, 47.15 g | ClC1=C(C(=O)O)C(=CC=C1)C | C8H7ClO2
reactant | HBTU | 276 mmol, 105 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 1.24 mol, 119 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 600 mL | CN(C)C=O | C3H7NO
solvent | water | 5 L | O | H2O
product | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[(2-chloro-6-methylphenyl)carbonyl]-L-phenylalanine methyl ester | 150 g | COC([C@@H](NC(=O)C1=C(C=CC=C1C)Cl)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C25H21Cl3N2O4
